* source SYMV01
R_R8         N24250 N24134  9k TC=0,0 
C_C3         N24246 N28116  10u  TC=0,0 
R_R12         0 N24182  100k TC=0,0 
X_Q2         N24250 N24246 N24344 awb2n1613 PARAMS:                            
+                 
R_R11         0 N24344  3k TC=0,0 
C_C4         N24182 N24250  10u  TC=0,0 
V_V3         N24134 0 24
R_R7         N24246 N24134  51.6k TC=0,0 
V_V4         N28116 0 DC 0 AC 0
+SIN 0 0.1 1k 0 0 0
R_R10         0 N24246  20k TC=0,0 
R_R15         0 N26017  500k TC=0,0 
R_R13         N26081 N25969  51.6k TC=0,0 
V_V6         N26089 0 DC 0 AC 0
+SIN 0 0.1 1k 0 0 0
C_C6         N26089 N30516  10u  TC=0,0 
R_R16         0 N26081  20k TC=0,0 
X_Q3         N29638 N26081 N26179 awb2n1613 PARAMS:                            
+                 
R_R14         N29638 N25969  9k TC=0,0 
R_R17         0 N26179  3k TC=0,0 
V_V5         N25969 0 24
C_C5         N26017 N29638  10u  TC=0,0 
C_C7         N28696 N28772  10u  TC=0,0 
C_C8         N28664 N28748  10u  TC=0,0 
R_R21         0 N28772  3k TC=0,0 
R_R20         0 N28664  20k TC=0,0 
V_V8         N28748 0 DC 0 AC 0
+SIN 0 0.1 1k 0 0 0
R_R22         0 N28696  100k TC=0,0 
R_R18         N28664 N28602  51.6k TC=0,0 
V_V7         N28602 0 24
X_Q4         N28602 N28664 N28772 awb2n1613 PARAMS:                            
+                 
C_C9         0 N26081  10u  TC=0,0 
R_R23         N26179 N30516  500 TC=0,0 
